US08980913B2
Step 1: (S)-Benzyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)piperidine-1-carboxylate
To a mixture of (S)-tert-butyl((3-hydroxyphenyl)(phenyl)methyl)carbamate (8.0 g, 26.7 mmol) and cesium carbonate (13.1 g, 37.4 mmol) in DMF (130 ml) was added 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid benzyl ester (12.94 g, 32.1 mmol). The resulting reaction mixture was stirred at 50° C. for 17 hours. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine (×3), dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0 to 50% ethyl acetate/iso-hexane to afford the title compound (13.7 g, 93%).

reactant | (S)-tert-butyl((3-hydroxyphenyl)(phenyl)methyl)carbamate | 26.7 mmol, 8.0 g | C(C)(C)(C)OC(N[C@@H](C1=CC=CC=C1)C1=CC(=CC=C1)O)=O | C18H21NO3
reactant | cesium carbonate | 37.4 mmol, 13.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(toluene-4-sulfonyloxymethyl)-piperidine-1-carboxylic acid benzyl ester | 32.1 mmol, 12.94 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)COS(=O)(=O)C1=CC=C(C=C1)C | C21H25NO5S
solvent | DMF | 130 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)-Benzyl 4-((3-(((tert-butoxycarbonyl)amino)(phenyl)methyl)-phenoxy)methyl)piperidine-1-carboxylate | 13.7 g, 93% | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC2CCN(CC2)C(=O)OCC2=CC=CC=C2)C=CC1)C1=CC=CC=C1 | C32H38N2O5
